US09212182B2
A flask was charged with zinc iodide (1.010 ml, 14.98 mmol), then heated with a heat gun under high vacuum for 5 minutes. The flask was charged with furan (5.09 ml, 69.9 mmol) and ethyl acrylate (5.43 ml, 49.9 mmol), then covered in foil and heated at 40° C. for 48 hours. The solution was then diluted with ethyl acetate and washed with 10% aqueous Na2SO3. After drying with Na2SO4 and filtration, the solvents were removed under reduced pressure then purified by silica gel chromatography (RediSep Gold 80 g, gradient elution 0-50% EtOAc:Heptane) to afford (1R,2R,4R)-ethyl 7-oxabicyclo[2.2.1]hept-5-ene-2-carboxylate (3.91 g, 23.25 mmol, 46.5% yield) as a clear colorless oil (2.5:1 mixture of endo and exo isomers). 1H NMR (400 MHz, CHLOROFORM-d) δ=6.44 (dd, J=1.7, 5.8 Hz, 1H), 6.41-6.38 (m, 1H), 6.38-6.34 (m, 1H), 6.24 (dd, J=1.6, 5.8 Hz, 1H), 5.19 (dd, J=0.7, 1.6 Hz, 1H), 5.18-5.16 (m, 1H), 5.08 (dd, J=0.7, 4.6 Hz, 1H), 5.02 (ddd, J=0.7, 1.7, 4.7 Hz, 1H), 4.19 (q, J=7.1 Hz, 2H), 4.10 (ttd, J=3.6, 7.1, 10.7 Hz, 1H), 3.11 (ddd, J=3.8, 4.9, 9.1 Hz, 1H), 2.42 (dd, J=3.9, 8.5 Hz, 1H), 2.17 (td, J=4.4, 11.2 Hz, 1H), 2.11 (ddd, J=4.7, 9.3, 11.4 Hz, 1H), 1.60 (dd, J=3.8, 11.5 Hz, 1H), 1.56 (dd, J=8.6, 11.6 Hz, 1H), 1.29 (t, J=7.2 Hz, 3H), 1.25 (t, J=7.2 Hz, 1H)

reactant | furan | 69.9 mmol, 5.09 ml | O1C=CC=C1 | C4H4O
reactant | ethyl acrylate | 49.9 mmol, 5.43 ml | C(C=C)(=O)OCC | C5H8O2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | zinc iodide | 14.98 mmol, 1.010 ml | [I-].[Zn+2].[I-]
product | (1R,2R,4R)-ethyl 7-oxabicyclo[2.2.1]hept-5-ene-2-carboxylate | 23.25 mmol, 3.91 g, 46.5% yield | [C@H]12[C@@H](C[C@H](C=C1)O2)C(=O)OCC | C9H12O3
